US07981903B2
1-[2-methyl-5-(methyloxy)-4-nitrophenyl]-4-[2-(methylsulfonyl)ethyl]piperazine (0.257 g, 0.72 mmol) was placed in a 40 mL high vial and dissolved in 10 mL of 1:1 ethyl acetate/methanol. 5 wt % Platinum(sulfided)/C (0.165 g, 0.043 mmol) was added followed quickly by a screw cap septum. The vial was evacuated and filled with nitrogen six times to remove any oxygen. The vial was then pressurized with hydrogen (balloon) and the solution stirred overnight. The next morning the vessel was evacuated and filled with nitrogen six times to remove any hydrogen. The solution was filtered through celite and evaporated to afford 5-methyl-2-(methyloxy)-4-{4-[2-(methylsulfonyl)ethyl]-1-piperazinyl}aniline (0.194 g, 0.59mmol, 82%). 1 H NMR (400 MHz, CHLOROFORM-δ ppm 6.54 (s, 2 H), 3.80 (s, 3 H), 3.30-3.37 (m, 2H), 3.07 (s, 3 H), 2.91-2.98 (m, 6 H), 2.82-2.90 (m, 4 H), 2.15 (s, 3 H).

reactant | 1-[2-methyl-5-(methyloxy)-4-nitrophenyl]-4-[2-(methylsulfonyl)ethyl]piperazine | 0.72 mmol, 0.257 g | CC1=C(C=C(C(=C1)[N+](=O)[O-])OC)N1CCN(CC1)CCS(=O)(=O)C | C15H23N3O5S
solvent | ethyl acetate methanol | 10 mL | C(C)(=O)OCC.CO
product | 5-methyl-2-(methyloxy)-4-{4-[2-(methylsulfonyl)ethyl]-1-piperazinyl}aniline | 0.59mmol, 0.194 g, 82% | CC=1C(=CC(=C(N)C1)OC)N1CCN(CC1)CCS(=O)(=O)C | C15H25N3O3S
